US07291635B2
The title B compound in Example 9, 2-(2,4-dimethoxybenzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (13.9 g, 48.5 mmol), (5-diethoxymethyl-thiophen-2-yl)-methanol (10.5 g, 48.5 mmol) and triphenylphosphine (19.1 g, 72.2 mmol) are dissolved in dry THF (300 mL) and the mixture is cooled to 0° C. Diethyl azodicarboxylate (12. g, 72.7 mmol) is added dropwise over 3 min and the mixture is stirred at RT for 16 h. The solvent is evaporated and the residue is taken up in Et2O (100 mL). The solution is cooled to 0° C. and the precipitate is filtered and discarded. The filtrate is concentrated to dryness and the residue is chromatographed on silica gel using 0→100% EtOAc in hexane as the eluent to afford 5-(5-diethoxymethyl-thiophen-2-ylmethyl)-2-(2,4-dimethoxy-benzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one as an orange oil.

reactant | 2-(2,4-dimethoxybenzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 48.5 mmol, 13.9 g | COC1=C(CN2S(NCC2=O)(=O)=O)C=CC(=C1)OC | C11H14N2O5S
reactant | (5-diethoxymethyl-thiophen-2-yl)-methanol | 48.5 mmol, 10.5 g | C(C)OC(C1=CC=C(S1)CO)OCC | C10H16O3S
reactant | triphenylphosphine | 72.2 mmol, 19.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethyl azodicarboxylate | 72.7 mmol | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 5-(5-diethoxymethyl-thiophen-2-ylmethyl)-2-(2,4-dimethoxy-benzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C)OC(C1=CC=C(S1)CN1CC(N(S1(=O)=O)CC1=C(C=C(C=C1)OC)OC)=O)OCC | C21H28N2O7S2
